* Schematics Netlist *



V_V1         0 $N_0001 16
V_V2         $N_0002 0 16
X_U1         $N_0003 Vin $N_0002 $N_0001 Vout uA741
V_V4         $N_0006 0 11.4286V
V_V5         Vin 0  
+SIN 0 20 1000 0 0 0
R_R1         Vout $N_0003  70k  
R_R2         $N_0003 $N_0006  10k  
